2189-01-22 06:58:00 Physician Resident Progress Note
Chief Complaint: hyperglycemia and AMS
   24 Hour Events:
   continued on insulin gtt overnight with closure of AG this AM
   Slept well, no complaints this AM
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Aztreonam
   Hives;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-22**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 86 (86 - 95) bpm
   BP: 140/57(76){126/41(64) - 147/57(76)} mmHg
   RR: 17 (15 - 20) insp/min
   SpO2: 99%
   Height: 71 Inch
             Total In:
                                                                      4 mL
                                                                  2,312 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                      4 mL
                                                                  2,012 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,200 mL
   Urine:
   1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      4 mL
                                                                  1,112 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, R foot ulcer stable
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   344 K/uL
   11.1 g/dL
   131 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   30 mg/dL
   110 mEq/L
   140 mEq/L
   32.1 %
   16.7 K/uL
        [image002.jpg]
                             [**2189-1-22**]  01:00 AM
                             [**2189-1-22**]  05:06 AM
   WBC
   16.7
   Hct
   32.1
   Plt
   344
   Cr
   1.3
   1.1
   TropT
   0.02
   Glucose
   352
   131
   Other labs: CK / CKMB / Troponin-T:82/7/0.02, ALT / AST:15/15, Alk Phos
   / T Bili:91/0.3, Amylase / Lipase:36/12, Albumin:3.8 g/dL, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: [**1-21**] AP PORTABLE CHEST:
   Heart size is normal.  The aorta is mildly tortuous as before.  There
   is normal pulmonary vascularity.  Visualized lung parenchyma is clear
   (this radiograph does not include the left costophrenic sulcus).  Two
   small symmetric nodular densities projecting over the lower lung zones
   are consistent with nipple shadows.  There is no pleural effusion or
   pneumothorax. Bones are unremarkable.
   IMPRESSION:  No acute process.
   Microbiology: [**1-21**] BCx NGTD
   ECG: none this AM, will repeat today
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   -          AG closed this AM
   -          Will administer half of home dose 75/25 then d/c insulin gtt
   30-60 minutes later
   -          FSG 124, will change IVF to D5
 NS, continue aggressive
   rate for now until pt takes good po, then taper down
   -          Lytes check tid
   -          If K drops below 4 will add potassium to IVF
   -          [**Last Name (un) 276**] c/s today (Endocrinologist is Dr. [**Last Name (STitle) 500**]
 EKG changes- ST depressions - In pt without known h/o CAD but with
   CAD equivalent in DM. Cardiac enzymes negative. Was most likely a
   hypovolemic demand strain.
   - Recheck EKG today
   - Telemetry unrevealing overnight.
   - Cycle cardiac enzymes (2 sets negative, 3^rd set today)
 LEUKOCYTOSIS
   -          resolving, was likely related to DKA
   -          f/u blood cultures
  Nausea/vomiting
 Resolved. Wad likely [**1-24**] DKA
   -- LFTs and amylase all WNL
   -- Anti-emetics prn
 Oral Abscess
   -          continue clindamycin 150mg qid (day [**3-28**])
   -          contact dentist (see previous notes for #) to clarify
   treatment plan
 DIABETES, TYPE I
   -          fixed and SS insulin coverage [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs after
   cessation of insulin gtt
   -          change fsg to q2h for today, then qid if stabilized
   -          f/u A1c
   -          continue lyrica
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          Cr back to WNL and near baseline this AM
   -          Anticipate full normalization
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          appear at baseline after resolution of hyperglycemia but
   seems strange that a type I diabetic aged 63 would be unable to recall
   his home insulin regimen
 HTN - Continue diovan, amlodipine, and lisinopril.
 Hypercholesterolemia - Continue statin.
 Depression - Continue wellbutrin, effexor
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
   -          pt followed as outpt by podiatry, wll c/s today for
   continued assessment and recs
   ICU Care
   Nutrition:
   Comments: change NPO to diabetic diet as tolerated
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2189-1-21**] 11:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor today vs. Potentially d/c home
   ------ Protected Section ------
   12:26 labs: Troponin 0.08; CK up from 82 to 597 but MB only 15.
   Patient nauseated but otherwise comfortable.  Denies chest pain,
   dyspnea, diaphoresis.  EKG shows sinus rhythm with new T wave
   flattening in inferior leads and I.  Stool guaiac negative.  CT head
   negative for bleed (team read).
   Spoke with patient and called his wife about possible damage to heart
   and indications for giving IV heparin.  Also discussed risk of bleeding
   with heparin.
   Started IV heparin gtt.
   ------ Protected Section Addendum Entered By:[**Name (NI) 361**] [**Last Name (NamePattern1) 512**], MD
   on:[**2189-1-22**] 15:14 ------

2189-01-22 09:21:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No nausea
   24 Hour Events:
                       History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Aztreonam
   Hives;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough
   Gastrointestinal: Nausea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-22**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (85 - 95) bpm
   BP: 162/57(82){126/41(64) - 162/57(82)} mmHg
   RR: 19 (15 - 20) insp/min
   SpO2: 97%
   Height: 71 Inch
             Total In:
                                                                      4 mL
                                                                  3,279 mL
   PO:
             440 mL
   TF:
   IVF:
                                                                      4 mL
                                                                  2,739 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,200 mL
   Urine:
   1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      4 mL
                                                                  2,079 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), LE ulcer
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bases)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   344 K/uL
   131 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   30 mg/dL
   110 mEq/L
   140 mEq/L
   32.1 %
   16.7 K/uL
        [image002.jpg]
                             [**2189-1-22**]  01:00 AM
                             [**2189-1-22**]  05:06 AM
   WBC
   16.7
   Hct
   32.1
   Plt
   344
   Cr
   1.3
   1.1
   TropT
   0.02
   Glucose
   352
   131
   Other labs: CK / CKMB / Troponin-T:82/7/0.02, ALT / AST:15/15, Alk Phos
   / T Bili:91/0.3, Amylase / Lipase:36/12, Albumin:3.8 g/dL, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA) resolving. Presumably precipitated by not
   taking insulin. Not sure of his usual insulin dose. Now eating so have
   converted to sq insulin. Still somewhat volume depleted so will
   continue IVF somewhat longer
 LEUKOCYTOSIS no obvious infection. Mouth sore may be a tooth abscess
   but on clindamycin
 ACIDOSIS, METABOLIC - now due to incr Cl
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) creat coming down
 ALTERED MENTAL STATUS (NOT DELIRIUM) much improved. Unclear if at
   baseline
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2189-1-21**] 11:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :D/C Home pending resolution of insulin
   Total time spent: 35 minutes

2189-01-23 07:20:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
 EKG - At [**2189-1-22**] 09:29 AM
 EKG - At [**2189-1-22**] 01:45 PM
   [**Last Name (un) 276**] rec resuming his 75/25 44units in Am and 32 units presupper
   Wife confirmed that he is not as sharp as usual since admission CT head
   negative for bleed but there is a scalp hematoma in the midline at the
   vertex.
   Podiatry saw patient; nothing to do at the moment for foot ulcer
   Troponin and CK bump at noon; c/o nausea and had new T wave flattening
   in inferior leads. Started on heparin gtt, ASA, BB
   Given 1/2 NS for hyperglycemia; became hyponatremic with low phos and
   given sodium phos
   SUBJ:
   slept well, no complaints thia AM
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Aztreonam
   Hives;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-23**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.4
   HR: 71 (62 - 94) bpm
   BP: 115/53(68){106/45(65) - 166/67(90)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  6,961 mL
                                                                  1,433 mL
   PO:
                                                                  1,440 mL
                                                                    800 mL
   TF:
   IVF:
                                                                  4,741 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  2,875 mL
                                                                  1,000 mL
   Urine:
                                                                  2,875 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,086 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R> L at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   216 K/uL
   10.3 g/dL
   56 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   11 mg/dL
   103 mEq/L
   131 mEq/L
   30.5 %
   9.8 K/uL
        [image002.jpg]
                             [**2189-1-22**]  01:00 AM
                             [**2189-1-22**]  05:06 AM
                             [**2189-1-22**]  12:26 PM
                             [**2189-1-22**]  09:04 PM
                             [**2189-1-23**]  04:32 AM
   WBC
   16.7
   9.8
   Hct
   32.1
   30.5
   Plt
   344
   216
   Cr
   1.3
   1.1
   0.8
   0.8
   0.6
   TropT
   0.02
   0.08
   0.05
   Glucose
   [**Telephone/Fax (3) 547**]77
   56
   Other labs: PT / PTT / INR:12.4/47.6/1.0, CK / CKMB /
   Troponin-T:670/14/0.05, ALT / AST:15/15, Alk Phos / T Bili:91/0.3,
   Amylase / Lipase:36/12, Albumin:3.8 g/dL, Ca++:7.7 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Imaging: CT HEAD WITHOUT CONTRAST
   INDICATION:  Altered mental status, found down, question bleed.
   TECHNIQUE:  Contiguous axial images were obtained through the brain,
   without
   IV contrast.
   There is no evidence of hemorrhage, edema, masses, mass effect, or
   infarction.
   The ventricles and sulci are normal in caliber and configuration.  No
   fractures are identified.  There is suggestion of a prior
   ethmoidectomy. There
   is a scalp hematoma in the midline at the vertex.
   IMPRESSION:  Scalp hematoma.  No acute bleed.
   Microbiology: [**1-11**] BCx NGTD
   ECG: none found in chart
   Assessment and Plan
 Troponin Leak
 DDx is demand Ischemia vs NSTEMI.  Pt was extremely
   dehydrated in setting of DKA, so favor  demand ischemia from poor
   coronary flow
   -          d/c heparin gtt
   -          monitor on tele
   -          repeat EKG today
   -          medical management with ASA, metoprolol, heparin, statin
 DIABETES, TYPE I
   -          fixed and SS insulin coverage [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs (42 and 24 of
   75/25 qAM and pre-supper, SS with humulog)
   -          FSG q2h but SSI only q4h to avoid stacking and hypoglycemia
   -          Diabetic diet
   -          continue lyrica
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 confirmed by wife
not as
   sharp
 yesterday
   -          CT head negative for intracranial process
   -          Most likely residual confusion from DKA
   -          Also on several possible culprit meds (buproprion,
   venlafaxine, modafinil)
   -          Contact PCP [**Last Name (NamePattern4) **]: acuity of these meds, consider behavioral
   neuron in future if doesn
t continue to clear
 Hyponatremia
 has basilar crackles, and is net + over 9 liters since
   ED presentation. Is likely hypervolemic hyponatremia
   -          check PM lytes
   -          if not normalizing consider lasix, goal negative 500cc
 HTN - Continue [**Last Name (un) 239**], amlodipine, metoprolol, and lisinopril
 Hypercholesterolemia - Continue statin.
 Oral Abscess
   -          continue clindamycin 150mg qid (day [**4-29**])
 LEUKOCYTOSIS - resolved
 ACIDOSIS, METABOLIC - resolved
 DIABETIC KETOACIDOSIS (DKA) - resolved
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - resolved
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
   -          seen by podiatry, No changes In management for now
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed and
   SS insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs
   Lines:
   20 Gauge - [**2189-1-21**] 11:42 PM
   Prophylaxis:
   DVT: switch heparin gtt to heparin sQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o today

2189-01-23 11:18:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2189-1-22**] 09:29 AM
 EKG - At [**2189-1-22**] 01:45 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Aztreonam
   Hives;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Eating
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-23**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 66 (62 - 94) bpm
   BP: 114/43(60){106/43(60) - 166/67(90)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  6,961 mL
                                                                  1,990 mL
   PO:
                                                                  1,440 mL
                                                                  1,280 mL
   TF:
   IVF:
                                                                  4,741 mL
                                                                    710 mL
   Blood products:
   Total out:
                                                                  2,875 mL
                                                                  1,000 mL
   Urine:
                                                                  2,875 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,086 mL
                                                                    990 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   216 K/uL
   56 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   11 mg/dL
   103 mEq/L
   131 mEq/L
   30.5 %
   9.8 K/uL
        [image002.jpg]
                             [**2189-1-22**]  01:00 AM
                             [**2189-1-22**]  05:06 AM
                             [**2189-1-22**]  12:26 PM
                             [**2189-1-22**]  09:04 PM
                             [**2189-1-23**]  04:32 AM
   WBC
   16.7
   9.8
   Hct
   32.1
   30.5
   Plt
   344
   216
   Cr
   1.3
   1.1
   0.8
   0.8
   0.6
   TropT
   0.02
   0.08
   0.05
   0.03
   Glucose
   [**Telephone/Fax (3) 547**]77
   56
   Other labs: PT / PTT / INR:12.4/47.6/1.0, CK / CKMB /
   Troponin-T:670/14/0.03, ALT / AST:15/15, Alk Phos / T Bili:91/0.3,
   Amylase / Lipase:36/12, Albumin:3.8 g/dL, Ca++:7.7 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA) - hypoglycemic overnight. [**Last Name (un) 276**] has made
   recommendations about adjusting insulin dosing
 LEUKOCYTOSIS - resolving. Possibly related to DKA or to cardiac
   ischemia
 ACIDOSIS, METABOLIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - creat now at
   baseline
 ALTERED MENTAL STATUS (NOT DELIRIUM) now oriented x 3. Seems closer
   to baseline.
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
   NSTEMI - enzymes have peaked.  Seems most likely to have been demand
   ischemia rather than ACS. Will d/c heparin, follow ECGs.  Has statin
   and ACE, [**Last Name (un) 239**]. Will add beta blocker
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: following
   [**Last Name (un) 276**] recs
   Lines:
   20 Gauge - [**2189-1-21**] 11:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Heparin gtt - will d/c)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2189-01-24 06:54:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
 CALLED OUT
   c/o nausea, started on reglan
   diuresed with lasix, 20mg IV given as only net negative -116cc as of
   11pm
   SUBJ:
   no complaints, slept well, feels "at baseline"
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Aztreonam
   Hives;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-24**] 12:00 AM
   Furosemide (Lasix) - [**2189-1-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-24**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 79 (66 - 83) bpm
   BP: 141/96(103){114/43(60) - 165/96(103)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,694 mL
                                                                    568 mL
   PO:
                                                                  2,840 mL
                                                                    450 mL
   TF:
   IVF:
                                                                    854 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  4,050 mL
                                                                  2,350 mL
   Urine:
                                                                  4,050 mL
                                                                  2,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -356 mL
                                                                 -1,782 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   194 K/uL
   10.1 g/dL
   237 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   95 mEq/L
   131 mEq/L
   28.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2189-1-22**]  01:00 AM
                             [**2189-1-22**]  05:06 AM
                             [**2189-1-22**]  12:26 PM
                             [**2189-1-22**]  09:04 PM
                             [**2189-1-23**]  04:32 AM
                             [**2189-1-23**]  04:46 PM
                             [**2189-1-24**]  03:59 AM
   WBC
   16.7
   9.8
   4.2
   Hct
   32.1
   30.5
   28.5
   Plt
   344
   216
   194
   Cr
   1.3
   1.1
   0.8
   0.8
   0.6
   0.6
   0.7
   TropT
   0.02
   0.08
   0.05
   0.03
   Glucose
   [**Telephone/Fax (3) 547**]77
   56
   143
   237
   Other labs: PT / PTT / INR:12.4/47.6/1.0, CK / CKMB /
   Troponin-T:670/14/0.03, ALT / AST:15/15, Alk Phos / T Bili:91/0.3,
   Amylase / Lipase:36/12, Albumin:3.8 g/dL, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:2.4 mg/dL
   Imaging: None new
   Microbiology: [**1-21**] BCx NGTD
   Assessment and Plan
 Troponin Leak
 Resolved, likely was demand ischemia in setting of
   profound dehydration. Rpt EKG WNL.
   -          Continue medical management with ASA, metoprolol, statin
 DIABETES, TYPE I
 with known neuropathy, nephropathy, and
   gastroparesis
   -          felt hypoglycemic o/n, FSG was 70, will decrease PM fixed
   dose and bedtime SS
   -          otherwise continue fixed and SS insulin coverage [**First Name8 (NamePattern2) **] [**Last Name (un) 276**]
   recs
   -          FSG and ISS qid
   -          Diabetic diet
   -          continue lyrica for pain
   -          preprandial reglan for nausea
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 A+O x 3 recently, not
   significantly altered
   -          CT head negative for intracranial process
   -          Was most likely residual confusion from DKA
 Hyponatremia
 basilar crackles have resolved as lasix administered
   at MN with effective diuresis so far today. Nonetheless is net positive
   over 9 liters since ED presentation, so likely hypervolemic
   hyponatremia
   -          if not normalizing consider lasix, goal: keep negative
   1000cc today, will likely autodiurese to eunatremia
   -          check PM lytes
 Anemia
 HCT 28 this AM, down from 39 on presentation. However, was
   extremely hemoconcentrated then, and his historical baseline is 27-30
   -          was guaiac negative on exam, but continue to guaiac stools
   -          no e/o head bleed on CT
   -          check PM HCT
 HTN - Continue [**Last Name (un) 239**], amlodipine, metoprolol, and lisinopril
 Hypercholesterolemia - Continue statin.
 Oral Abscess
   -          continue clindamycin 150mg qid (day [**5-30**])
 LEUKOCYTOSIS - resolved
 DIABETIC KETOACIDOSIS (DKA) - resolved
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - resolved
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
 appears healing
   -          seen by podiatry, No changes In management for now, continue
   wound care
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed and
   SS insulin adjustments as above
   Lines:
   20 Gauge - [**2189-1-21**] 11:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2189-01-24 10:52:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo Type I DM, p/w DKA after not taking insulin because was feeling
   poorly.  Was acidoitic, high WBC, on insulin drip.  Developed worsening
   nausea and CP, EKG with Tw flattening and slight troponin leak to 0.8,
   and CKs increased.  Started on heparin drip.   Heparin d/ced
   yesterday.  An now stable and called out.
   24 Hour Events:
 CALLED OUT
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Aztreonam
   Hives;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-24**] 12:00 AM
   Furosemide (Lasix) - [**2189-1-24**] 12:00 AM
   Other medications:
   Wellbutrin
   Effexor
   Provigil
   Lyrica
   Lisinopril
   Protonix
   Amlodapine
   Valsartan
   Clindamycin
   Simvastatin
   ASA
   Lopressor
   SSI
   NPH 44/24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Nausea
   Flowsheet Data as of  [**2189-1-24**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 91 (66 - 91) bpm
   BP: 156/52(78){106/51(70) - 165/96(105)} mmHg
   RR: 21 (13 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.7 kg (admission): 81.2 kg
   Height: 71 Inch
             Total In:
                                                                  3,694 mL
                                                                    992 mL
   PO:
                                                                  2,840 mL
                                                                    810 mL
   TF:
   IVF:
                                                                    854 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  4,050 mL
                                                                  4,025 mL
   Urine:
                                                                  4,050 mL
                                                                  4,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -356 mL
                                                                 -3,033 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Oriented (to): Times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.1 g/dL
   194 K/uL
   237 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   95 mEq/L
   131 mEq/L
   28.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2189-1-22**]  01:00 AM
                             [**2189-1-22**]  05:06 AM
                             [**2189-1-22**]  12:26 PM
                             [**2189-1-22**]  09:04 PM
                             [**2189-1-23**]  04:32 AM
                             [**2189-1-23**]  04:46 PM
                             [**2189-1-24**]  03:59 AM
   WBC
   16.7
   9.8
   4.2
   Hct
   32.1
   30.5
   28.5
   Plt
   344
   216
   194
   Cr
   1.3
   1.1
   0.8
   0.8
   0.6
   0.6
   0.7
   TropT
   0.02
   0.08
   0.05
   0.03
   Glucose
   [**Telephone/Fax (3) 547**]77
   56
   143
   237
   Other labs: PT / PTT / INR:12.4/47.6/1.0, CK / CKMB /
   Troponin-T:670/14/0.03, ALT / AST:15/15, Alk Phos / T Bili:91/0.3,
   Amylase / Lipase:36/12, Albumin:3.8 g/dL, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)  DKA resolved. Eating well.
   Hypoglycemic overnight, can reduce evening NPH by 2U.  Change FS to QAC
   and Qhs.
 LEUKOCYTOSIS
 ACIDOSIS, METABOLIC  Resolved
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  Resolved.
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Cleared
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)  Looks clean and almost
   healed.
   NSTEMI: Troponins improved.  Should have outpatient stress test to
   assess cardiac status.
   HTN: Well controlled
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2189-1-21**] 11:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes